US04647687
28 g of bis-cyanoethyl sulphide were dissolved in 50 ml of dichloroethane, and 110 g of potassium carbonate were added. 64 g of bromine were then added dropwise at 20° to 30° C. The mixture was stirred at 40° C. for 16 hours, a further 40 g of potassium carbonate were added and the mixture was stirred at 60° C. for 16 hours. The mixture was filtered, the filtrate was washed with water and concentrated and the residue was chromatographed. 5.5 g of 2-bromo-2-cyano-vinyl 2-cyano-ethyl sulphide were obtained as an oil, 1H-NMR: δ=2.6-3.0 (2H), 3.0-3.4 (2H) and 7.5-7.9 (1H).

reactant | bis-cyanoethyl sulphide | 28 g | C(#N)C(CSCC(C#N)C#N)C#N | C8H6N4S
reactant | potassium carbonate | 110 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromine | 64 g | BrBr | Br2
reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
product | 2-bromo-2-cyano-vinyl 2-cyano-ethyl sulphide | 5.5 g | C(#N)CCSC=C(C#N)Br | C6H5BrN2S
